US06642229B2
A mixture of 2-bromobenzonitrile (9.1 g, 50 mmol), 3-aminobenzeneboronic acid monohydrate (11.6 g, 75 mmol), and tetrakis(triphenylphosphine)palladium(0) (1.73 g, 1.5 mmol) in 1,2-dimethoxyethane (50 ml) and 2M sodium carbonate solution (25 ml) was heated at 80° C. for 20 h. After cooling to ambient temperature the reaction was partitioned between ethyl acetate (400 ml) and water (400 ml). The organics were washed with brine (400 ml), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (0-25%) gave 3′-aminobiphenyl-2-carbonitrile as a colourless oil that solidified on standing to afford a white solid (9.5 g, 98%): δH (400 MHz, CDCl3) 3.79 (2H, br), 6.75 (1H, ddd, J 8, 3 and 1), 6.84 (1H, dd, J 3 and 3), 6.92 (1H, dd, J 8 and 3), 7.25 (1H, dd, J 8 and 8), 7.40 (1H, ddd, J 8, 8 and 1), 7.50 (1H, dd, J 8 and 1), 7.62 (1H, ddd, J 8, 8 and 1), 7.73 (1H, dd, J 8 and 1).

reactant | 2-bromobenzonitrile | 50 mmol, 9.1 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | 3-aminobenzeneboronic acid monohydrate | 75 mmol, 11.6 g | O.NC=1C=C(C=CC1)B(O)O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 25 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.5 mmol, 1.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-aminobiphenyl-2-carbonitrile | NC=1C=C(C=CC1)C=1C(=CC=CC1)C#N | C13H10N2
